US08217032B2
8,10-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol
Alternatively, dissolve enantiomerically enriched 5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol (804 mg, 1.59 mmol) in DMF (10 mL). Add potassium tert-butoxide (532 mg, 4.75 mmol). Heat at 50° C. for 2 minutes. Pour the reaction mixture into ice (5 g). Extract with ethyl acetate (100 mL). Separate the layers and wash the organic layer with 10% aqueous lithium chloride solution (20 mL×2). Dry with magnesium sulfate and concentrate in vacuo. Purify the residue over silica gel, eluting the material with a step gradient of methanol/dichloromethane (0 to 10%), to give the enantiomerically enriched title compound.

reactant | 5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol | 1.59 mmol, 804 mg | OC(C1=C2C=CC(=CC2=CC=C1C1=C(C=C(C=C1F)F)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H28F3NO3
reactant | potassium tert-butoxide | 4.75 mmol, 532 mg | CC(C)([O-])C.[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 8,10-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=C(C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
